US07667049B2
Synthesis of ethyl 3-benzyloxycarbonyl-3-(ethoxycarbonylmethylamino)propionate
0.95 kg of ethyl 3-(ethoxycarbonylmethylamino)propionate (4.68 mol) was dissolved in 2.85 L of ethanol and 2.85 L of water. To this solution, 0.41 kg of sodium bicarbonate (4.91 mol) was added under stirring. Subsequently, 0.84 kg of benzylchloroformate (4.91 mol) was added dropwise at an internal temperature of 28 to 35° C. and the mixture was stirred at an internal temperature of 28 to 35° C. for 2 hours. Ethanol was evaporated under reduced pressure and 9.51 L of ethyl acetate was added. The mixture was then stirred for 5 minutes. The mixture was allowed to stand and the organic layer (top layer) was collected. To this layer, 4.8 L of water was added and the mixture was stirred for 5 minutes. The mixture was allowed to stand again and the organic layer (top layer) was collected. To this layer, 4.8 L of 28% brine was added and the mixture was stirred for 5 minutes. The mixture was allowed to stand again and the organic layer (top layer) was collected. To this layer, 0.57 kg of anhydrous sodium sulfate was added and the mixture was stirred for 1 hour. The solid was separated by filtration and washed with 0.95 L of ethyl acetate. The filtrate and the wash were combined and concentrated under reduced pressure. The resulting product was dried under reduced pressure at an external temperature of 50° C. for 30 minutes. This gave 1.64 kg of a crude product of the title compound as a colorless oil. This product was used in the subsequent step without further purification.

reactant | ethyl 3-(ethoxycarbonylmethylamino)propionate | 4.68 mol, 0.95 kg | C(C)OC(=O)CNCCC(=O)OCC | C9H17NO4
reactant | sodium bicarbonate | 4.91 mol, 0.41 kg | C([O-])(O)=O.[Na+]
reactant | benzylchloroformate | 4.91 mol, 0.84 kg | C(C1=CC=CC=C1)OC(=O)Cl | C8H7ClO2
solvent | ethanol | 2.85 L | C(C)O | C2H6O
solvent | water | 2.85 L | O | H2O
product | ethyl 3-benzyloxycarbonyl-3-(ethoxycarbonylmethylamino)propionate | C(C1=CC=CC=C1)OC(=O)C(CC(=O)OCC)NCC(=O)OCC | C17H23NO6
